US07919528B2
2-Hydrazino-4-(2-pyridyl)pyrimidine
To a solution of 2-amino-4-(2-pyridyl)pyrimidine (10.10 g, 58.66 mmol) in 5% aqueous sulfuric acid (200 mL) was added sodium nitrate (20.24 g, 293.3 mmol) portionwise over 10 min. The solution was stirred at room temperature for 2 h and was then adjusted to pH 10 by addition of 6N aq. NaOH. The resulting mixture was then extracted with 30% i-PrOH in CHCl3 (10×300 mL), and the combined organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was triturated with hexanes and collected by vacuum filtration to afford 6.89 g of 4-(2-pyridyl)pyrimid-2-one (68%) as a beige solid. A mixture of 4-(2-pyridyl)pyrimid-2-one (6.89 g, 39.8 mmol) in phosphorus oxychloride (30 mL) was heated at 110° C. for 90 min in a sealed tube. The dark brown solution was then cooled to room temperature and poured over cracked ice and water (500 mL). The mixture was vigorously stirred at 0° C. for 1 h, and was then adjusted to pH 14 with 6 N aq NaOH. The mixture was extracted with CH2Cl2 (2×300 mL), and the combined organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. To a solution of the residue in CH2Cl2 (10 mL) and MeOH (30 mL) was added hydrazine monohydrate (7.0 mL, 144.2 mmol), and the solution was stirred for 16 h at which time a white precipitate was observed. This solid was collected by vacuum filtration, washed with water, and dried in vacuo to provide 2.20 g of the title compound (30%) as an off-white solid. MH+188.

reactant | 4-(2-pyridyl)pyrimid-2-one | 39.8 mmol, 6.89 g | N1=C(C=CC=C1)C1=NC(NC=C1)=O | C9H7N3O
reactant | water | 500 mL | O | H2O
reactant | NaOH | 6 N | [OH-].[Na+]
reactant | hydrazine monohydrate | 144.2 mmol, 7.0 mL | O.NN
solvent | phosphorus oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 30 mL | CO | CH4O
product | 2-Hydrazino-4-(2-pyridyl)pyrimidine | 2.20 g, 30% | N(N)C1=NC=CC(=N1)C1=NC=CC=C1 | C9H9N5
